US04544504
(Z)-11-hexadecenoic acid was prepared as described in Example VII but starting with Z-11-hexadecenal (1.115 g, 4.68 mmol) and (0.875 g, 5.15 mmol) in 15 ml. of ethanol/water, 2/1, and NaOH (0.880 g, 22 mmol) in water (10 ml); purification by flash chromatography (H/EA/A), 8/2/1, gave 0.478 g (40%) of the acid; Rf (H/EA,7/3), 0.64; IR (film) 2800-3300 (CODH), 2850-2950 (alkane, alkane C--H), 1700 cm-1 (C=O), 1H NMR 0.95 (t, J=6 HZ, 3H), 1.20-1.50 (br S, 18 H), 2.05 (br d, J=6 HZ, 4H), 2.38 (t, J=6HZ, 2H), 5.32 (t, J=6HZ, 2H), 10.6-10.8 (br S, 1H).

reactant | Z-11-hexadecenal | 4.68 mmol, 1.115 g | C(CCCCCCCCC\C=C/CCCC)=O | C16H30O
reactant | ethanol water | C(C)O.O
reactant | NaOH | 22 mmol, 0.880 g | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
product | (Z)-11-hexadecenoic acid | C(CCCCCCCCC\C=C/CCCC)(=O)O | C16H30O2
